US06608049B2
A solution of 900 mg (5.02 mmol) of 1-(2-amino-5-hydroxyphenyl)-2-methyl-1-propanone in 30 ml of half-conc. hydrochloric acid is treated slowly at −5° C. with a solution of 364 mg (5.27 mmol) of sodium nitrite in 15 ml of water and, after addition is complete, stirred at this temperature for 30 min. A solution of 2.266 g (10.04 mmol) of tin(II) chloride dihydrate in 15 ml of conc. hydrochloric acid is then added dropwise to the reaction mixture at −5° C. and the reaction is slowly warmed to room temperature. The mixture is neutralized using 45% strength sodium hydroxide solution, filtered off through kieselguhr, washed with ethyl acetate, and the organic phase is dried over sodium sulphate, concentrated in vacuo and dried. 370 mg (36%) of 5-hydroxy-3-isopropyl-1H-indazole are obtained.

reactant | 1-(2-amino-5-hydroxyphenyl)-2-methyl-1-propanone | 5.02 mmol, 900 mg | NC1=C(C=C(C=C1)O)C(C(C)C)=O | C10H13NO2
reactant | sodium nitrite | 5.27 mmol, 364 mg | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | 10.04 mmol, 2.266 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 5-hydroxy-3-isopropyl-1H-indazole | 370 mg, 36% | OC=1C=C2C(=NNC2=CC1)C(C)C | C10H12N2O
